US07902252B2
4.33. Synthesis of 6-(3-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (114)
The title compound was synthesized from methyl 6-(3-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.099 g, 0.36 mmol) and lithium hydroxide (0.151 g, 3.60 mmol in 2 mL water), according to General Procedure 7. A 1:2 mixture of methanol (MeOH) and THF (3-4 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 0.059 g (63% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.23 (ddt, J=13.18, 8.25, 5.25, 5.25 Hz, 1H), 2.62 (ddd, J=14.31, 8.70, 5.34 Hz, 1H), 2.74 (ddd, J=14.22, 8.63, 5.22 Hz, 1H), 2.89-2.99 (m, 1H), 4.25 (dd, J=8.57, 5.15 Hz, 1H), 6.68 (s, 1H), 7.02-7.05 (m, 1H), 7.10 (t, J=1.83 Hz, 1H), 7.18 (ddd, J=7.97, 2.04, 1.17 Hz, 1H), 7.25 (t, J=7.79 Hz, 1H); LCMS-MS (ESI−) 260.0 (M−H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 6-(3-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.36 mmol, 0.099 g | ClC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)OC | C15H14ClNO2
reactant | lithium hydroxide | 3.60 mmol, 2 mL, 0.151 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 3-4 mL | C1CCOC1 | C4H8O
product | 6-(3-chlorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 63% yield | ClC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)O | C14H12ClNO2
